US05696112
N-[5-[(5,6,7,8-Tetrahydro-4H-thieno[3,2-b]azepin-4-yl)carbonyl]-2-pyridinyl]-2-methylfurane-3-carboxamide
A solution of 2 mmol of 5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine, 5 mmol of N,N-diisopropylethylamine and 2.2 mmol of 6-[(3-methyl-2-furanylacetyl)amino]pyridine-3-carbonyl chloride in 10 ml of CH2Cl2 is stirred at room temperature for 16 hours. The mixture is diluted with 50 ml of CH2Cl2 and 25 ml of water and the organic layer separated. The organic layer is washed with H2O, 1N NaHCO3, brine and dried (Na2SO4). The solvent is removed and the residue is chromatographed on silica gel with ethyl acetate-hexane as solvent to give the product as a solid.

reactant | 5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine | 2 mmol | S1C=CC=2NCCCCC21 | C8H11NS
reactant | N,N-diisopropylethylamine | 5 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 6-[(3-methyl-2-furanylacetyl)amino]pyridine-3-carbonyl chloride | 2.2 mmol | CC1=C(OC=C1)CC(=O)NC1=CC=C(C=N1)C(=O)Cl | C13H11ClN2O3
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 25 ml | O | H2O
product | N-[5-[(5,6,7,8-Tetrahydro-4H-thieno[3,2-b]azepin-4-yl)carbonyl]-2-pyridinyl]-2-methylfurane-3-carboxamide | S1C=CC=2N(CCCCC21)C(=O)C=2C=CC(=NC2)NC(=O)C2=C(OC=C2)C | C20H19N3O3S
